US07618961B2
Ethyl (2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (16.0 mg) with purity >90%. LCMS (pos) m/z 369.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | Ethyl (2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | C(CC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C16H20N2O4S2
